US04666510
The sodium salt of 5-(3-acetyl-2,4,6-trimethylphenyl)-2-[1-(ethoxyimino)butyl]-3-hydroxy-cyclohex-2-en-1-one (0.10 g; 0.26 mmole) was dissolved in acetone and then 4-toluenesulfonyl chloride (0.05 g; 0.26 mmole) was added. The mixture was stirred for 15 minutes and then the solvent was removed by evaporation under reduced pressure using a rotary evaporator. The product was purified by column chromatography over silica gel (eluant dichloromethane) to give 5-(3-acetyl-2,4,6-trimethylphenyl)-2-[1-(ethoxyimino)butyl]-3-(4-toluenesulfonyl)oxy-cyclohex-2-en-1-one (0.13 g; 95.6%) as a yellow oil.

reactant | sodium | [Na] | Na
reactant | 5-(3-acetyl-2,4,6-trimethylphenyl)-2-[1-(ethoxyimino)butyl]-3-hydroxy-cyclohex-2-en-1-one | 0.26 mmole, 0.10 g | C(C)(=O)C=1C(=C(C(=CC1C)C)C1CC(=C(C(C1)=O)C(CCC)=NOCC)O)C | C23H31NO4
reactant | 4-toluenesulfonyl chloride | 0.26 mmole, 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | acetone | CC(=O)C | C3H6O
product | 5-(3-acetyl-2,4,6-trimethylphenyl)-2-[1-(ethoxyimino)butyl]-3-(4-toluenesulfonyl)oxy-cyclohex-2-en-1-one | 0.13 g, 95.6% | C(C)(=O)C=1C(=C(C(=CC1C)C)C1CC(=C(C(C1)=O)C(CCC)=NOCC)OS(=O)(=O)C1=CC=C(C=C1)C)C | C30H37NO6S
